US07067534B1
4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL (4-FLUOROPHENYL)ACETATE:
Prepared by Procedure Q1 and Scheme C2 (TEA) using N-{3-[1-(4-hydroxybutyl)-4-piperidinyl]phenyl}-2-methylpropanamide and (4-fluorophenyl)acetyl chloride: ESMS m/e: 455.3 (M+H)+.

reactant | N-{3-[1-(4-hydroxybutyl)-4-piperidinyl]phenyl}-2-methylpropanamide | OCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C19H30N2O2
reactant | (4-fluorophenyl)acetyl chloride | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
product | 4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL (4-FLUOROPHENYL)ACETATE | FC1=CC=C(C=C1)CC(=O)OCCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C27H35FN2O3
